US04070539
(1-Oxo-2-bromo-2-ethyl-6-chloro-5-indanyloxy)acetic acid is prepared by following substantially the same procedure as described in Example 1, Step B, using the following reagents: (1-oxo-2-ethyl-6-chloro-5-indanyloxy)acetic acid (13.44 g., 0.05 mole), bromine (8.79 g., 0.055 mole), acetic acid (135 ml.) and 48% hydrobromic acid (2 drops). The crude yield of the product is 17.38 g. (100%), m.p. 157°-159° C. Recrystallization from benzene gives (1-oxo-2-bromo-2-ethyl-6-chloro-5-indanyloxy)acetic acid as white needles, m.p. 159.5°-160.5° C.

reactant | (1-oxo-2-ethyl-6-chloro-5-indanyloxy)acetic acid | 0.05 mole, 13.44 g | O=C1C(CC2=CC(=C(C=C12)Cl)OCC(=O)O)CC | C13H13ClO4
reactant | bromine | 0.055 mole, 8.79 g | BrBr | Br2
catalyst | hydrobromic acid | 2 drops | Br | BrH
solvent | acetic acid | 135 ml | C(C)(=O)O | C2H4O2
product | (1-oxo-2-bromo-2-ethyl-6-chloro-5-indanyloxy)acetic acid | O=C1C(CC2=CC(=C(C=C12)Cl)OCC(=O)O)(CC)Br | C13H12BrClO4
